US03951987
0.5 g. of 1-(2-hydroxyethyl)-4-(p-fluorophenyl)-1,2,3,6-tetrahydropyridine are dissolved in 10 ml. of absolute benzene and 0.4 g. of thionyl chloride are added with stirring and cooling with ice. The mixture is heated under reflux conditions for 30 minutes and the solvent is evaporated. The 1-(2-chloroethyl)-4 -(p-fluorophenyl)-1,2,3,6-tetrahydropyridine hydrochloride obtained melts at 226°C. after recrystallization from ethanol.

reactant | 1-(2-hydroxyethyl)-4-(p-fluorophenyl)-1,2,3,6-tetrahydropyridine | OCCN1CCC(=CC1)C1=CC=C(C=C1)F | C13H16FNO
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 1-(2-chloroethyl)-4 -(p-fluorophenyl)-1,2,3,6-tetrahydropyridine hydrochloride | Cl.ClCCN1CCC(=CC1)C1=CC=C(C=C1)F | InChI=1S/C13H15ClFN.ClH/c14-7-10-16-8-5-12(6-9-16)11-1-3-13(15)4-2-11;/h1-5H,6-10H2;1H
